US06235731B1
1) Synthesis of N-[2-(piperidin-4-ylidene)ethyl]-5-thia-1,8b-diazaacenaphthylene-4-carboxamide dihydrochloride
While 1.56 g (7.17 mM) of 5-thia-1,8b-diazaacenaphthylene-4-carboxylic acid and 0.83 g (7.17 mM) of N-hydroxysuccinimide were stirred together in 50 ml of acetonitrile, 1.51 g (7.89 mM) of 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride was added and the mixture was stirred at room temperature for 2 hours. To this reaction mixture was added 1.50 ml (10.8 mM) of triethylamine as well as a solution of the above crude 2-[1-(tert-butoxycarbonyl)piperidin-4-ylidene]ethylamine in 20 ml of acetonitrile and the mixture was stirred at room temperature for 2 hours. This reaction mixture was poured in aqueous solution of sodium hydrogen carbonate and extracted with 3 portions of ethyl acetate. The organic layers were pooled and dried over MgSO4 and the solvent was distilled off under reduced pressure. The residue was subjected to silica gel column chromatography (ethyl acetate to ethyl acetate-methanol=9/1) to provide crude N-[2-(1-(tert-butoxycarbonyl)piperidin-4-ylidene]ethyl]-5-thia-1,8b-diazaacenaphthylene-4-carboxamide. To this crude N-[2-(1-(tert-butoxycarbonyl)piperidin-4-ylidene)ethyl]-5-thia-1,8b-diazaacenaphthylene-4-carboxamide was added 4 ml of concentrated hydrochloric acid and the mixture was stirred at room temperature for 0.5 hour. After addition of ethanol, the mixture was stirred and the resulting precipitate was recovered and rinsed serially with ethanol and diethyl ether to provide the title compound.

reactant | N-[2-(1-(tert-butoxycarbonyl)piperidin-4-ylidene)ethyl]-5-thia-1,8b-diazaacenaphthylene-4-carboxamide | C(C)(C)(C)OC(=O)N1CCC(CC1)=CCNC(=O)C1=CC2=CN=C3C=CC=C(S1)N32 | C22H26N4O3S
reactant | hydrochloric acid | 4 ml | Cl | ClH
solvent | ethanol | C(C)O | C2H6O
product | N-[2-(piperidin-4-ylidene)ethyl]-5-thia-1,8b-diazaacenaphthylene-4-carboxamide dihydrochloride | Cl.Cl.N1CCC(CC1)=CCNC(=O)C1=CC2=CN=C3C=CC=C(S1)N32 | InChI=1S/C17H18N4OS.2ClH/c22-17(19-9-6-12-4-7-18-8-5-12)14-10-13-11-20-15-2-1-3-16(23-14)21(13)15;;/h1-3,6,10-11,18H,4-5,7-9H2,(H,19,22);2*1H
